US04975444
N-{1-[3-(N2 -Methanesulphonyl-N6 -t-butyloxycarbonyl-(S)-lysyl-amino)-2(R,S)-t-butyloxycarbonylpropyl]-1-cyclopentanecarbonyl}-O-t-butyl-(S)-tyrosine
N-{1-[3-(N2 -Methanesulphonyl-N6 -t-butyloxycarbonyl-(S)-lysyl-amino)-2(R,S)-t-butyloxycarbonylpropyl]-1-cyclopentanecarbonyl}-O-t- butyl-(S)-tyrosine ethyl ester (2.21 g, 2.68 mmol) was dissolved in acetone (5.5 ml) and then a 1N aqueous solution of sodium hydroxide (5.36 ml, 5.38 mmol) was added. After stirring for 10 minutes at room temeprature the solution was acidified to pH4 with aqueous citric acid (10%). The acetone was then removed on a rotary evaporator and the residue extracted with ethyl acetate (50 ml). The organic phase was separated, washed with saturated brine, dried over magnesium sulphate and the solvent removed under reduced pressure to yield the title compound as a white foam (1.89 g, 88%). Found: C,58.49; H,8.01; N,6.64. C19H64N4O11S requires C,58.77; H,8.09; N,7.03%.

reactant | N-{1-[3-(N2 -Methanesulphonyl-N6 -t-butyloxycarbonyl-(S)-lysyl-amino)-2(R,S)-t-butyloxycarbonylpropyl]-1-cyclopentanecarbonyl}-O-t- butyl-(S)-tyrosine ethyl ester | 2.68 mmol, 2.21 g | C(C)OC([C@@H](NC(=O)C1(CCCC1)CC(CNC([C@@H](NS(=O)(=O)C)CCCCNC(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)OC(C)(C)C)=O | C41H68N4O11S
reactant | sodium hydroxide | 5.38 mmol, 5.36 ml | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | acetone | 5.5 ml | CC(=O)C | C3H6O
product | N-{1-[3-(N2 -Methanesulphonyl-N6 -t-butyloxycarbonyl-(S)-lysyl-amino)-2(R,S)-t-butyloxycarbonylpropyl]-1-cyclopentanecarbonyl}-O-t-butyl-(S)-tyrosine | 1.89 g, 88% | CS(=O)(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)NCC(CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O)C(=O)OC(C)(C)C | C39H64N4O11S
